US07615642B2
1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-cyclobutyl-1H-pyrazole-4-carboxamide
Following the same procedure in Example 24, Step A, using cyclobutylamine (13 uL, 10 mg, 0.15 mmol), DIPEA (28 uL, 21 mg, 0.16 mmol), 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid (0.073 mmol) and HATU (44 mg, 0.12 mmol) in DMF (2.5 mL). The crude product was purified by MPLC using Hex/EtOAc (1:2) on silica gel to give 17 mg (47%) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 1.40-1.56 (m, 4 H), 1.58 (s, 9 H), 1.67-1.79 (m, 2 H), 1.96-2.09 (m, 2 H), 2.22-2.34 (m, 3 H), 3.25-3.34 (m, 2 H), 3.83-3.94 (m, 2 H), 4.34-4.39 (m, 1 H), 4.41 (d, J=7.62 Hz, 2 H), 7.90 (d, J=8.6 Hz, 1 H), 7.97 (dd, J=8.8, 1.8 Hz, 1 H), 8.04 (d, J=0.59 Hz, 1 H), 8.33 (d, J=1.37 Hz, 1 H), 8.77 (d, J=0.59 Hz, 1 H); MS (ESI) (M+H)+=499.8; Anal. Calcd for C25H33N5O4S+0.70 TFA+0.30 EtOAc+0.20H2O (613.09): C, 54.66; H, 6.00; N, 11.42. Found: C, 54.63; H, 5.95; N, 11.51.

reactant | cyclobutylamine | 0.15 mmol, 13 uL, 10 mg | C1(CCC1)N | C4H9N
reactant | DIPEA | 0.16 mmol, 28 uL, 21 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid | 0.073 mmol | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C21H26N4O5S
reactant | HATU | 0.12 mmol, 44 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-cyclobutyl-1H-pyrazole-4-carboxamide | 17 mg, 47% | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)NC2CCC2 | C25H33N5O4S
